US05403816
Preparation of methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-(N-phenylcarbamoylamino)picolinate (Compound No. 181)
2 g (6.5 mmol) of methyl 6-amino-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate, 0.77 g (7.15 mmol) of phenyl isocyanate and a catalytic amount of crystals of 1,4-diazabicyclo-[2.2.2]-octane were added to 50 ml of MEK, and the mixture was stirred and refluxed for 4 hours. After completion of the reaction, the product was filtered and washed with MEK to obtain the desired product as colorless transparent crystals.

reactant | methyl 6-amino-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate | 6.5 mmol, 2 g | NC1=CC=C(C(=N1)C(=O)OC)OC1=NC(=CC(=N1)OC)OC | C13H14N4O5
reactant | phenyl isocyanate | 7.15 mmol, 0.77 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 1,4-diazabicyclo-[2.2.2]-octane | N12CCN(CC1)CC2 | C6H12N2
solvent | MEK | 50 ml | CCC(=O)C | C4H8O
product | methyl 3-[(4,6-dimethoxypyrimidin-2-yl)oxy]-6-(N-phenylcarbamoylamino)picolinate | yield: 71.1% | COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)NC(NC1=CC=CC=C1)=O)C(=O)OC | C20H19N5O6
